US07105533B2
A solution of 3-methoxy-4-pyridin-2-ylaniline (130 mg, 0.65 mmol) and 2-nitrobenzaldehyde (100 mg, 0.65 mmol) in toluene (1 mL) was heated to 60° C. for 12 h and the reaction mixture was concentrated to afford 3-methoxy-N-[2-nitrophenyl)methylidene]-4-pyridin-2-ylaniline. The 3-methoxy-N-[2-nitrophenyl)methylidene]-4-pyridin-2-ylaniline was dissolved in freshly distilled triethylphosphite (1.1 mL) and was heated to 110° C. for 5 h under an atmosphere of nitrogen. The reaction was cooled to 60° C. and the triethylphosphite was distilled off leaving a residue which was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:9 to 3:2) to afford the desired 2-(3-methoxy-4-pyridin-2-ylphenyl)-2H-indazole. 1H NMR (CDCl3, 500 MHz) δ 8.74 (m, 1H), 8.50 (s, 1H), 7.99 (d, 1H), 7.92 (dt, 1H), 7.83 (d, 1H), 7.75 (m, 3H), 7.52 (dd, 1H), 7.36 (ddd, 1H), 7.25, ddd, 1H), 7.14 (dd, 1H), 4.05 (s, 3H) ppm. 13C NMR (CDCl3, 125 MHz) δ 157.9, 154.9, 149.7, 149.5, 141.6, 135.7, 132.0, 128.4, 127.0, 125.1, 122.8, 122.5, 121.9, 120.6, 120.4, 117.8, 112.4, 104.7, 56.0 ppm. MS (ESI) 302 (M)+.

reactant | 3-methoxy-4-pyridin-2-ylaniline | 0.65 mmol, 130 mg | COC=1C=C(N)C=CC1C1=NC=CC=C1 | C12H12N2O
reactant | 2-nitrobenzaldehyde | 0.65 mmol, 100 mg | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 4-pyridin-2-ylaniline | N1=C(C=CC=C1)C1=CC=C(N)C=C1 | C11H10N2
